US09315491B2
Phenyl 4-(5-(methylthio)-4-morpholinopyrimidin-2-yl)phenylcarbamate
The phenyl chloroformate (0.84 ml, 6.68 mmole, 2.5 eq) was added to a mixture of 4-(5-(methylthio)-4morpholinopyrimidin-2-yl)benzeneamine (0.84 g, 2.18 mmole, 1 eq), NaHCO3(aq) (1M, 6.3 ml, 6.3 mmole 2.2 eq) and ACN (13 ml) at 0□. The reaction mixture was stirred for 8 hrs and then dried. The reaction mixture was partitioned between EA and water, the organic layer was washed with brine, dried over MgSO4, filtered and evaporated in vacuo. The resulting residue was purified by flash chromatography on silica gel (Hexane/EtOAc 2:1) to give a yellow solid (80%).

reactant | phenyl chloroformate | 6.68 mmole, 0.84 ml, 2.5 eq | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 4-(5-(methylthio)-4morpholinopyrimidin-2-yl)benzeneamine | 2.18 mmole, 0.84 g, 1 eq | CSC=1C(=NC(=NC1)C1=CC=C(C=C1)N)N1CCOCC1 | C15H18N4OS
reactant | NaHCO3 | 6.3 mmole, 1M, 6.3 ml, 2.2 eq | C(=O)(O)[O-].[Na+]
solvent | ACN | 13 ml | C(C)#N | C2H3N
product | Phenyl 4-(5-(methylthio)-4-morpholinopyrimidin-2-yl)phenylcarbamate | 80% | CSC=1C(=NC(=NC1)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O)N1CCOCC1 | C22H22N4O3S
